### PR TITLE
[Merged by Bors] - feat(Probability/Cdf): 2 probability measures are equal iff their cdf are equal

### PR DESCRIPTION
**Pull request by RemyDegenne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Cdf.lean [hunk 1]
```diff
@@ -86,11 +87,26 @@ lemma measure_cdf [IsProbabilityMeasure μ] : (cdf μ).measure = μ := by
...
 /-- If two real probability distributions have the same cdf, they are equal. -/
-lemma MeasureTheory.Measure.ext_of_cdf (μ ν : Measure ℝ) [IsProbabilityMeasure μ]
+lemma MeasureTheory.Measure.eq_of_cdf (μ ν : Measure ℝ) [IsProbabilityMeasure μ]
     [IsProbabilityMeasure ν] (h : cdf μ = cdf ν) : μ = ν := by
   rw [← measure_cdf μ, ← measure_cdf ν, h]
+
+lemma MeasureTheory.Measure.eq_iff_cdf (μ ν : Measure ℝ) [IsProbabilityMeasure μ]
+    [IsProbabilityMeasure ν] :
+    μ = ν ↔ cdf μ = cdf ν :=
+⟨fun h ↦ by rw [h], MeasureTheory.Measure.eq_of_cdf μ ν⟩
```
Comment (ocfnash) [inline Mathlib/Probability/Cdf.lean:112]: This looks like it would be a good `simp` lemma if stated the other way round. How about (untested):
```suggestion
@[simp] lemma MeasureTheory.Measure.cdf_eq_iff (μ ν : Measure ℝ) [IsProbabilityMeasure μ]
    [IsProbabilityMeasure ν] :
    cdf μ = cdf ν ↔ μ = ν :=
⟨MeasureTheory.Measure.eq_of_cdf μ ν, fun h ↦ by rw [h]⟩
```

**Review by ocfnash — APPROVED** [review]
Thanks, just one suggestion.

bors d+

**Comment by RemyDegenne** [comment]
Thanks for the review!
bors r+
